US05622954
A mixture of 4.0 grams (0.0085 mole) of 3-(4-chlorophenyl)-3-methyl-1-tributylstannyl-1-butene and 4.3 grams (0.0096 mole) of lead tetraacetate in 30 mL of anhydrous acetic anhydride is stirred at ambient temperature for about 18 hours. After this time, the reaction mixture is diluted to 100 mL with pentane. The mixture was then filtered through a pad of diatomaceous earth. The pad of diatomaceous earth is washed with about 300 mL of pentane. The wash and the filtrate are combined and concentrated under reduced pressure to a residue. The residue is subjected to column chromatography on silica gel, using petroleum ether as the eluant. The product-containing fractions are combined and concentrated under reduced pressure, yielding about 1.1 grams of 3-(4-chlorophenyl)-3-methyl-1-butyne. The NMR spectrum is consistent with the proposed structure.

reactant | 3-(4-chlorophenyl)-3-methyl-1-tributylstannyl-1-butene | 0.0085 mole, 4.0 grams | ClC1=CC=C(C=C1)C(C=C[Sn](CCCC)(CCCC)CCCC)(C)C
reactant | lead tetraacetate | 0.0096 mole, 4.3 grams | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | acetic anhydride | 30 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pentane | CCCCC | C5H12
product | 3-(4-chlorophenyl)-3-methyl-1-butyne | about 1.1 grams | ClC1=CC=C(C=C1)C(C#C)(C)C | C11H11Cl
